US06593333B1
4-[5-(4Cyanobenzamido)anilino]-6-methoxy-7-(3-morpholinopropoxy)quinazoline
Using an analogous procedure to that described in Example 26, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline was reacted with N-(3-aminophenyl)-4-cyanobenzamide. The material so obtained was purified by column chromatography eluting with 85:10:5 methylene chloride/methanol/isopropylamine. The material so obtained was triturated under diethyl ether to give the title compound in 48% yield; NMR: 2.1 (m, 2H), 3.35-3.45 (m, 4H), 3.7-3.8 (m, 8H), 3.98 (s, 3H), 4.22 (m, 2H), 7.2 (s, 1H), 7.38 (m, 1H), 7.51 (m, 1H), 7.58 (m, 1H), 7.93 (s, 1H), 8.04 (d, 2H), 8.13 (d, 2H), 8.31 (s, 1H), 8.46 (s, 1H), 9.59 (s, 1H); Mass: M+H+ 539.

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | N-(3-aminophenyl)-4-cyanobenzamide | NC=1C=C(C=CC1)NC(C1=CC=C(C=C1)C#N)=O | C14H11N3O
product | 4-[5-(4Cyanobenzamido)anilino]-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 48% yield | C(#N)C1=CC=C(C(=O)NC=2C=CC=C(NC3=NC=NC4=CC(=C(C=C34)OC)OCCCN3CCOCC3)C2)C=C1 | C30H30N6O4
